US06894045B2
A solution of 8-ethyl-7-(4-heptyl)-3-[(4-methoxyphenyl)methyl]-1-methyl-3,7-dihydro-1H-purine-2,6-dione (4.30 g, 10.4 mmol) in trifluoroacetic acid (20 mL) was heated at 105° C. in a sealed tube for 14 h. The mixture was cooled to rt and concentrated. The residue was transferred to a separatory funnel containing saturated aqueous NaHCO3 (50 mL) and the aqueous layer was extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by column chromatography on silica gel (5% methanol in CH2Cl2) to afford 8-ethyl-7-(4-heptyl)-1-methyl-3,7-dihydro-1H-purine-2,6-dione (2.96 g, 97% yield) as a colorless solid: mp 152.5-153° C.; 1H NMR (300 MHz, CDCl3) δ 12.00 (s, 1H), 4.20-4.10 (m, 1H), 3.41 (s, 3H), 2.94 (q, J=7.3 Hz, 2H), 2.33-2.19 (m, 2H), 1.94-1.83 (m, 2H), 1.42 (t, J=7.4 Hz, 3H), 1.26-1.06 (m, 4H), 0.90 (t, J=7.3 Hz, 6H); LRMS (APCI) m/e 293.1 [(M+H)+, calcd for C15H25N4O2 293.2].

reactant | 8-ethyl-7-(4-heptyl)-3-[(4-methoxyphenyl)methyl]-1-methyl-3,7-dihydro-1H-purine-2,6-dione | 10.4 mmol, 4.30 g | C(C)C1=NC=2N(C(N(C(C2N1C(CCC)CCC)=O)C)=O)CC1=CC=C(C=C1)OC | C23H32N4O3
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 8-ethyl-7-(4-heptyl)-1-methyl-3,7-dihydro-1H-purine-2,6-dione | 2.96 g, 97% yield | C(C)C1=NC=2NC(N(C(C2N1C(CCC)CCC)=O)C)=O | C15H24N4O2
